US05792769
e) N-(tert-butoxycarbonyl)isonipecotic acid
Isonipecotic acid (3.90 g, 30 mmol), NaHCO3 (5.05 g, 60 mmol) were dissolved in 1:1 1,4-dioxane:water (100 mL). Di-tert-butyl dicarbonate (6.55 g, 30 mmol) was added and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated in vacuo. The residue was acidified to pH=6 using 10% citric acid and extracted into ethyl acetate (3×100 mL). The organic phase was then washed with brine (2×50 mL), dried over Na2SO4, and concentrated in vacuo to give the title compound as a white solid (6.25 g, 91%). 1H-NMR (300 MHz, CDCl3) δ 1.43 (s, 9H), 1.63 (m, 2H), 1.88 (dd, 2H), 2.45 (m, 1H), 2.83 (t, 2H), 4.00 (d, 2H).

reactant | Isonipecotic acid | 30 mmol, 3.90 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | NaHCO3 | 60 mmol, 5.05 g | C(=O)(O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
reactant | Di-tert-butyl dicarbonate | 30 mmol, 6.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-(tert-butoxycarbonyl)isonipecotic acid | 6.25 g, 91% | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)CC1 | C11H19NO4
